US09216980B2
Preparation of (2S,6R)-2,6-Dimethyl-1-[4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-benzyl]-piperidine
A degassed mixture of (2S,6R)-1-(4-bromobenzyl)-2,6-dimethylpiperidine (1.70 g, 6.0 mmol), bis(pinacolato)diborane (1.83 g, 7.2 mmol), 1,1′-[bis(diphenylphosphino) ferrocene]dichloropalladium(II) (245 mg, 0.3 mmol) and potassium acetate (1.76 mg, 18.0 mmol) in dioxane (31 mL) and DMSO (4 mL) was heated under microwave irradiation at 150° C. for 30 minutes. The cooled reaction mixture was diluted with ethyl acetate (100 mL) then filtered and the filtrate was washed with water (100 mL). The organic phase was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to afford the title compound as a beige solid (1.54 g, 78%) that was used in the next step without further purification. 1H NMR (CDCl3, 300 MHz): 7.75 (d, J=7.7 Hz, 2H), 7.39 (d, J=7.6 Hz, 2H), 3.88 (s, 2H), 2.58-2.25 (m, 2H), 1.51-1.70 (m, 4H), 1.43-1.21 (m, 14H), 1.10 (d, J=6.2 Hz, 6H).

reactant | (2S,6R)-1-(4-bromobenzyl)-2,6-dimethylpiperidine | 6.0 mmol, 1.70 g | BrC1=CC=C(CN2[C@H](CCC[C@H]2C)C)C=C1 | C14H20BrN
reactant | bis(pinacolato)diborane | 7.2 mmol, 1.83 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 18.0 mmol, 1.76 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 31 mL | O1CCOCC1 | C4H8O2
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (2S,6R)-2,6-Dimethyl-1-[4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-benzyl]-piperidine | 1.54 g, 78% | C[C@@H]1N([C@@H](CCC1)C)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H32BNO2
